US07696195B2
1l) (R)-1-(7-methyl-1H-indazol-5-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 160 mg (0.21 mmol) tert.-butyl 7-methyl-5-{(R)-3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-3-oxo-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propyl}-indazol-1-carboxylate in 10 mL 1 M HCl was stirred for 1 h at RT. To complete the reaction the mixture was heated to 50° C. for 10 min and stirred for a further hour at RT. The mixture was combined with 15% K2CO3 solution, extracted three times with in each case 30 mL DCM and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was triturated with 30 mL diisopropylether, suction filtered, washed with 10 mL diisopropylether again and dried in the air.

reactant | tert.-butyl 7-methyl-5-{(R)-3-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-3-oxo-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propyl}-indazol-1-carboxylate | 0.21 mmol, 160 mg | CC=1C=C(C=C2C=NN(C12)C(=O)OC(C)(C)C)C[C@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C41H56N8O6
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 1 M, 10 mL | Cl | ClH
product | (R)-1-(7-methyl-1H-indazol-5-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC=1C=C3C=NNC3=C(C1)C)C=CC=C2 | C36H48N8O4
